### PR TITLE
[Merged by Bors] - feat(Topology/EMetricSpace/BoundedVariation): more BoundedVariationOn and eVariationOn API

### PR DESCRIPTION
**Pull request by teorth**
Various API for `BoundedVariationOn` and `eVariationOn`, including a formula for the `eVariationOn` for finite sets such as pairs, or the variation of the identity function, or more generally a monotone function.

---

Note: to obtain the variation formula for finite sets, `Data.Finset.Sort` was added to the imports.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 1]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+  · apply le_antisymm _ (edist_le f (by simp) (by simp))
+    simp only [eVariationOn_eq_strictMonoOn, iSup_le_iff]
+    rintro ⟨n, u, hmono, hi⟩
+    rcases (by omega : n = 0 ∨ n = 1 ∨ 2 ≤ n) with rfl | rfl | hn
+    · simp
+    · have : u 0 < u 1 := hmono (by simp) (by simp) zero_lt_one
+      simp [(by grind : u 0 = a), (by grind : u 1 = b), edist_comm]
+    have : u 0 < u 1 := hmono (by simp) (by grind) zero_lt_one
+    have : u 1 < u 2 := hmono (by grind) (by grind) one_lt_two
+    grind
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
    · have : u 0 < u 1 := hmono (by simp) (by grind) zero_lt_one
      have : u 1 < u 2 := hmono (by grind) (by grind) one_lt_two
      grind
```
Quote from https://leanprover-community.github.io/contribute/style.html: "When new goals arise as side conditions or steps, they are indented and preceded by a focusing dot · (inserted as \.); the dot is not indented." I think the only exception to this is when we have a relatively long proof, which I believe is not the case here.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 2]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+  _ = eVariationOn f s + eVariationOn f {x, y} + eVariationOn f t := by
+    congr
+    apply union f hs _
+    simp [IsLeast, hxy]
+  _ = _ := by simp [pair]
+
+/-- The variation of `f` along the image of `{0, …, n}` under a monotone sequence `u` is the sum of
+the distances between consecutive values. -/
+theorem image_range_of_monotone (f : α → E) {u : ℕ → α} (hu : Monotone u) (n : ℕ) :
+    eVariationOn f (u '' .Iic n) = ∑ i ∈ .range n, edist (f (u i)) (f (u (i + 1))) := by
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
    eVariationOn f (u '' Iic n) = ∑ i ∈ .range n, edist (f (u i)) (f (u (i + 1))) := by
```
There's no need for the dot because `Set` is opened in the file. Similarly below for other `Iic` and `Icc`.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 3]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+  induction n with
+  | zero => simp [(by aesop : Iic 0 = {0})]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  | zero => simp [Iic]
```

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 4]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+  | succ n ih => calc
+    _ = eVariationOn f (u '' .Iic n ∪ {u n, u (n + 1)}) := by congr; grind
+    _ = eVariationOn f (u '' .Iic n) + eVariationOn f {u n, u (n + 1)} := by
+      apply union f (x := u n) _ _
+      · simp only [IsGreatest, mem_image, mem_Iic, mem_upperBounds, forall_exists_index, and_imp,
+        forall_apply_eq_imp_iff₂]
+        refine ⟨⟨n, by simp⟩, fun a ha ↦ hu ha⟩
+      · simp [IsLeast, hu (by omega : n ≤ n + 1)]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
      · simp [IsLeast, hu n.le_succ]
```
I would prefer a short proof term here as you need to specify the type if you are using a tactic.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 5]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+    _ = _ := by
+      simp [Finset.sum_range_succ, ih]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
    _ = _ := by simp [Finset.sum_range_succ, ih]
```
No need for the line break as the proof is short.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 6]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+    eVariationOn f (u '' .Iic n) = ∑ i ∈ .range n, edist (f (u i)) (f (u (i + 1))) := by
+  induction n with
+  | zero => simp [(by aesop : Iic 0 = {0})]
+  | succ n ih => calc
+    _ = eVariationOn f (u '' .Iic n ∪ {u n, u (n + 1)}) := by congr; grind
+    _ = eVariationOn f (u '' .Iic n) + eVariationOn f {u n, u (n + 1)} := by
+      apply union f (x := u n) _ _
+      · simp only [IsGreatest, mem_image, mem_Iic, mem_upperBounds, forall_exists_index, and_imp,
+        forall_apply_eq_imp_iff₂]
+        refine ⟨⟨n, by simp⟩, fun a ha ↦ hu ha⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
      · simp [IsGreatest, upperBounds]
        aesop
```
or if you prefer a one line proof
```suggestion
      · simpa [IsGreatest, upperBounds] using ⟨⟨n, by simp⟩, fun a ha ↦ hu ha⟩
```
A side note. I think `exact` is preferred over `refine` if you are trying to close the goal, and `refine` is only used in the case of generating subgoals.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 7]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+/-- A function valued in a metric space has bounded variation on any finite set (the finiteness of
+the space's distances makes the total variation finite). -/
+@[simp]
+theorem _root_.BoundedVariationOn.of_finset {E} [PseudoMetricSpace E] (f : α → E) (s : Finset α) :
+    BoundedVariationOn f s := by
+  obtain rfl | hne := s.eq_empty_or_nonempty
+  · simp
+  let k := s.card
+  have hk : 0 < k := s.card_pos.2 hne
+  let u : ℕ → α := fun n ↦ s.orderEmbOfFin (by rfl : _ = k) ⟨min n (k - 1), by grind⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  let u : ℕ → α := fun n ↦ s.orderEmbOfFin rfl ⟨min n (k - 1), by omega⟩
```
`grind` is a powerful tactic but sometimes it decreases readbility. I would use `omega` here because the goal is about integer arithmetic.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 8]
```diff
@@ -427,6 +433,73 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+  have : s = u '' .Iic (k - 1) := by
+    rw [← s.range_orderEmbOfFin (by rfl : _ = k)]
+    ext x; simp only [mem_image, mem_Iic, mem_range, u]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
    ext
    simp only [← s.range_orderEmbOfFin rfl, mem_image, mem_Iic, mem_range, u]
```

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 9]
```diff
@@ -1128,6 +1201,31 @@ theorem MonotoneOn.boundedVariationOn
...
   exact ENNReal.ofReal_mono (by grind)
 
+/-- The variation of a monotone real-valued function on `s ∩ Icc a b` equals its increment
+`f b - f a`. -/
+theorem MonotoneOn.eVariationOn_eq {f : α → ℝ} {s : Set α}
+    (hf : MonotoneOn f s) {a b : α} (hab : a ≤ b) (as : a ∈ s) (bs : b ∈ s) :
+    eVariationOn f (s ∩ .Icc a b) = ENNReal.ofReal (f b - f a) := by
+  have h : BoundedVariationOn f (s ∩ .Icc a b) := hf.locallyBoundedVariationOn a b as bs
+  apply eq_of_le_of_ge (eVariationOn_le hf as bs) (ENNReal.ofReal_le_of_le_toReal _)
+  grw [← BoundedVariationOn.dist_le h (x := a) (y := b)] <;> grind [Real.dist_eq]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]: This theorem is also true when `b < a` as in this case `Icc a b` is empty and `ENNReal.ofReal` is zero for nonpositive values (`hab` should also be removed for other theorems below).

As `hab : a ≤ b` is not needed, I think you should replace [MonotoneOn.eVariationOn_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/BoundedVariation.html#MonotoneOn.eVariationOn_le) with `MonotoneOn.eVariationOn_eq`, and deprecate [MonotoneOn.eVariationOn_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/BoundedVariation.html#MonotoneOn.eVariationOn_le) (more details about the deprecation policy can be found here: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Deprecation.20policy).

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 10]
```diff
@@ -1128,6 +1201,31 @@ theorem MonotoneOn.boundedVariationOn
...
+
+/-- The variation of the identity on `s ∩ Icc a b` is `b - a`. -/
+lemma eVariationOn_id {a b : ℝ} (hab : a ≤ b) {s : Set ℝ} (as : a ∈ s) (bs : b ∈ s) :
+    eVariationOn id (s ∩ .Icc a b) = ENNReal.ofReal (b - a) :=
+  MonotoneOn.eVariationOn_eq (monotone_id.monotoneOn _) hab as bs
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  (monotone_id.monotoneOn _).eVariationOn_eq hab as bs
```
Dot notation.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean (hunk 9 above)
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  grw [← h.dist_le (x := a) (y := b)] <;> grind [Real.dist_eq]
```
Dot notation.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 11]
```diff
@@ -1128,6 +1205,31 @@ theorem MonotoneOn.boundedVariationOn
...
+
+/-- The variation of the identity on `Icc a b` is `b - a`. -/
+@[simp]
+lemma eVariationOn_id_Icc {a b : ℝ} (hab : a ≤ b) :
+    eVariationOn id (.Icc a b) = ENNReal.ofReal (b - a) := by
+  simpa using eVariationOn_id hab (s := Set.univ) (by simp) (by simp)
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  simpa using eVariationOn_id hab (s := univ) (by simp) (by simp)
```

**Comment by CoolRmal** [comment]
Most comments are about the coding style and relatively minor. The only major concern I have is `MonotoneOn.eVariationOn_eq` and theorems dependent on it.

**Comment by CoolRmal** [comment]
awaiting-author

**Comment by teorth** [comment]
I have now folded the proof of `MonotoneOn.eVariation_le` into that of `MonotoneOn.eVariation_eq` and made `MonotoneOn.eVariation_le` a deprecated corollary.  Also, I have removed `BoundedVariationOn.of_singleton` (and made `BoundedVariationOn.of_finset` private) as both are superseded by `BoundedVariationOn.of_finite`.

-awaiting-author

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 12]
```diff
@@ -1091,45 +1149,75 @@ theorem _root_.BoundedVariationOn.tendsto_atBot_limUnder [CompleteSpace E] [hE :
...
+  simpa using eVariationOn_id (s := univ) (by simp) (by simp)
+
+/-- The identity function has bounded variation on every interval `Icc a b`. -/
+@[simp]
+lemma BoundedVariationOn.id_Icc (a b : ℝ) : BoundedVariationOn id (Icc a b) := by
+  simp [BoundedVariationOn]
 
 /-! ### Lipschitz functions and bounded variation -/
 
+end Monotone
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
end Monotone

/-! ### Lipschitz functions and bounded variation -/

```

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 13]
```diff
@@ -1091,45 +1149,75 @@ theorem _root_.BoundedVariationOn.tendsto_atBot_limUnder [CompleteSpace E] [hE :
...
   simp only [mem_setOf_eq, iSup_le_iff, and_imp, Prod.forall]
   intro a b as bs hab
-  grw [hf.eVariationOn_le as bs]
-  exact ENNReal.ofReal_mono (by grind)
+  grw [(hf.eVariationOn_eq as bs).le]
+  exact ofReal_mono (by grind)
+
+@[deprecated MonotoneOn.eVariationOn_eq (since := "2026-07-08")]
+theorem MonotoneOn.eVariationOn_le (hf : MonotoneOn f s) (as : a ∈ s) (bs : b ∈ s) :
+    eVariationOn f (s ∩ Icc a b) ≤ .ofReal (f b - f a) := (hf.eVariationOn_eq as bs).le
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]: May you move this between `MonotoneOn.eVariationOn_eq` and `MonotoneOn.locallyBoundedVariationOn`?

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 14]
```diff
@@ -1091,45 +1149,75 @@ theorem _root_.BoundedVariationOn.tendsto_atBot_limUnder [CompleteSpace E] [hE :
...
+        rw [ofReal_sum_of_nonneg]
+        exact fun i _ ↦ sub_nonneg_of_le (hf (us i).1 (us (i + 1)).1 (hu (Nat.le_succ _)))
+      _ = .ofReal (f (u n) - f (u 0)) := by rw [sum_range_sub (f <| u ·)]
+      _ ≤ _ :=
+        ofReal_le_ofReal (sub_le_sub (hf (us n).1 bs (us n).2.2) (hf as (us 0).1 (us 0).2.1))
+  rcases le_or_gt a b with hab | hab
+  · have h : BoundedVariationOn f (s ∩ Icc a b) := (hle.trans_lt ofReal_lt_top).ne
+    apply eq_of_le_of_ge hle (ofReal_le_of_le_toReal _)
+    grw [← h.dist_le (x := a) (y := b)] <;> grind [Real.dist_eq]
+  · simp [hab, hf bs as hab.le]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  rcases le_or_gt a b with hab | hab
  · have hle : eVariationOn f (s ∩ Icc a b) ≤ .ofReal (f b - f a) := by
      apply iSup_le _
      rintro ⟨n, ⟨u, hu, us⟩⟩
      calc
        _ = ∑ i ∈ range n, .ofReal (f (u (i + 1)) - f (u i)) := by
          refine sum_congr rfl fun i hi => ?_
          simp only [Finset.mem_range] at hi
          rw [edist_dist, Real.dist_eq, abs_of_nonneg]
          exact sub_nonneg_of_le (hf (us i).1 (us (i + 1)).1 (hu (Nat.le_succ _)))
        _ = .ofReal (∑ i ∈ range n, (f (u (i + 1)) - f (u i))) := by
          rw [ofReal_sum_of_nonneg]
          exact fun i _ ↦ sub_nonneg_of_le (hf (us i).1 (us (i + 1)).1 (hu (Nat.le_succ _)))
        _ = .ofReal (f (u n) - f (u 0)) := by rw [sum_range_sub (f <| u ·)]
        _ ≤ _ :=
          ofReal_le_ofReal (sub_le_sub (hf (us n).1 bs (us n).2.2) (hf as (us 0).1 (us 0).2.1))
    have h : BoundedVariationOn f (s ∩ Icc a b) := (hle.trans_lt ofReal_lt_top).ne
    apply eq_of_le_of_ge hle (ofReal_le_of_le_toReal _)
    grw [← h.dist_le (x := a) (y := b)] <;> grind [Real.dist_eq]
  · simp [hab, hf bs as hab.le]
```
I think this is more structured as `hle` is not used in the second subgoal.

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 15]
```diff
@@ -427,8 +428,65 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+
+/-- A function valued in a metric space has bounded variation on any `Finset` (the finiteness of
+the space's distances makes the total variation finite). -/
+@[simp]
+theorem _root_.BoundedVariationOn.of_finite {E} [PseudoMetricSpace E] (f : α → E) (s : Set α)
+[Finite s] : BoundedVariationOn f s := by
+  simpa using BoundedVariationOn.of_finset f s.toFinite.toFinset
 
+/-! ### Composition of bounded variation functions with monotone functions -/
 section Monotone
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean:491]:
```suggestion
/-! ### Composition of bounded variation functions with monotone functions -/

section Monotone
```

**Comment by CoolRmal** [comment]
I think this LGTM now, I'll put it on the maintainer queue after you address the comments.

awaiting-author

File: Mathlib/Topology/EMetricSpace/BoundedVariation.lean [hunk 16]
```diff
@@ -427,8 +428,65 @@ theorem sum' (f : α → E) {I : ℕ → α} (hI : Monotone I) {n : ℕ} :
...
+the distances between consecutive values. -/
+theorem image_range_of_monotone (f : α → E) {u : ℕ → α} (hu : Monotone u) (n : ℕ) :
+    eVariationOn f (u '' Iic n) = ∑ i ∈ .range n, edist (f (u i)) (f (u (i + 1))) := by
+  induction n with
+  | zero => simp [Iic]
+  | succ n ih =>
+      rw [(by grind : u '' Iic (n + 1) = u '' Iic n ∪ {u n, u (n + 1)}), union f (x := u n)]
+      · simp [Finset.sum_range_succ, ih]
+      · simpa [IsGreatest, upperBounds] using ⟨⟨n, by simp⟩, fun a ha ↦ hu ha⟩
+      · simp [IsLeast, hu n.le_succ]
```
Comment (CoolRmal) [inline Mathlib/Topology/EMetricSpace/BoundedVariation.lean]:
```suggestion
  | succ n ih =>
    rw [(by grind : u '' Iic (n + 1) = u '' Iic n ∪ {u n, u (n + 1)}), union f]
    · simp [Finset.sum_range_succ, ih]
    · simpa [IsGreatest, upperBounds] using ⟨⟨n, by simp⟩, fun a ha ↦ hu ha⟩
    · simp [IsLeast, hu n.le_succ]
```

**Comment by teorth** [comment]
-awaiting-author

**Comment by CoolRmal** [comment]
maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
